Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: SURGERY
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
Fever
 
Major Surgical or Invasive Procedure:
none

 
History of Present Illness:
___ w choledochal cyst and GB mass s/p recent robotic CCY,
CBD excision, ___, liver bed resection, fiducial
placement ___ p/w fevers.
His hospital course was uneventful, except that he pulled his NG
tube on POD0. He recovered well and was discharged to home two
days ago. The JP drain was removed the day of his discharge due
to low output. His father notes that the patient had a fever of
102.8 with tachycardia today, otherwise he was doing well, had
good lunch, was passing gas and moving his bowel since his
discharge. The called the transplant surgery clinic and was 
given
instruction to be admitted for further work up.  

ROS:
(+) per HPI
(-) Denies pain, night sweats, unexplained weight
loss, fatigue/malaise/lethargy, changes in appetite, trouble 
with
sleep, pruritis, jaundice, rashes, bleeding, easy bruising,
headache, dizziness, vertigo, syncope, weakness, paresthesias,
nausea, vomiting, hematemesis, bloating, cramping, melena, 
BRBPR,
dysphagia, chest pain, shortness of breath, cough, edema, 
urinary
frequency, urgency.

 
Past Medical History:
Autism  
HTN
?Gout  
choledochalcyst,Gallbladder adenocarcinoma
1. Laparoscopic robot-assisted cholecystectomy, complete
    resection of common bile duct, hilar lymph node
    dissection, Roux-en-Y hepaticojejunostomy.
2. Laparoscopic partial hepatectomy.
3. Placement of fiducials for radiation
 
Social History:
___
Family History:
 No known history of sudden cardiac death.

 
Physical Exam:
Vitals:98.5 117 136/90 97RA
GEN: A&O, NAD
HEENT: No scleral icterus, mucus membranes moist
CV:irregular, tachycardia, No M/G/R
PULM: Clear to auscultation b/l, No W/R/R
ABD: Soft, nondistended, nontender, no rebound or guarding,
normoactive bowel sounds, no palpable masses, incisions healing
well, no erythema or drainage
Ext: No ___ edema, ___ warm and well perfused

Laboratory:pending

Imaging:pending

 
Pertinent Results:
___ 04:47AM BLOOD WBC-9.5 RBC-4.01* Hgb-10.9* Hct-34.2* 
MCV-85 MCH-27.2 MCHC-31.9* RDW-14.4 RDWSD-44.7 Plt ___
___ 11:55PM BLOOD WBC-15.1*# RBC-3.57* Hgb-9.7* Hct-30.0* 
MCV-84 MCH-27.2 MCHC-32.3 RDW-14.8 RDWSD-45.4 Plt ___
___ 05:37AM BLOOD WBC-15.0* RBC-3.59* Hgb-9.6* Hct-30.1* 
MCV-84 MCH-26.7 MCHC-31.9* RDW-14.8 RDWSD-45.1 Plt ___
___ 05:37AM BLOOD ___
___ 05:37AM BLOOD Glucose-112* UreaN-10 Creat-1.2 Na-137 
K-3.6 Cl-102 HCO3-20* AnGap-19
___ 06:10AM BLOOD ALT-79* AST-57* AlkPhos-260* TotBili-1.3
___ 05:37AM BLOOD ALT-74* AST-55* AlkPhos-264* TotBili-1.2

 All BLOOD CULTURE URINE    All INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 
___ URINE URINE CULTURE-FINAL INPATIENT 
___ BLOOD CULTURE Blood Culture, Routine-PENDING 
INPATIENT 

 
Brief Hospital Course:
___ y.o.M s/p recent lap/robotic CCY, CBD excision, GB fossa 
excision  w/ fever at home to 102 and cough per patient's 
father. He was admitted to the ___ service and pan cultured. 
IV antibiotics were started (Vanco/zosyn). He remained with low 
grade temps overnight to 100.7 during the following day. PE was 
negative and 
CT w/o discrete fluid collection.  Blood and urine cultures were 
pending. He felt well the following day and was eating well. 
Labs were unremarkable except for persistent elevated WBC to 15, 
LFTS with alk phos 264 and t.bili 1.5. He was started on 
Ursodiol. 

Given that he felt well and remained with only low grade temps, 
he was discharged to home on Cipro 500mg bid for 7 days. He will 
f/u with Dr. ___ on ___.  Nightingale ___ was resumed. 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Metoprolol Succinate XL 200 mg PO DAILY 
2. Pantoprazole 40 mg PO Q24H 
3. Warfarin 5 mg PO DAILY 
4. Docusate Sodium 100 mg PO BID 
5. Colchicine 0.6-1.2 mg PO ASDIR 
6. Diazepam 5 mg PO DAILY:PRN anxiety 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. Pantoprazole 40 mg PO Q24H 
3. Warfarin 5 mg PO DAILY 
4. Acetaminophen 650 mg PO Q8H:PRN pain/headache 
5. Ciprofloxacin HCl 500 mg PO Q12H fever of unknown origin 
Duration: 7 Doses 
RX *ciprofloxacin HCl 500 mg 1 tablet(s) by mouth twice a day 
Disp #*14 Tablet Refills:*0
6. Colchicine 0.6-1.2 mg PO ASDIR 
7. Diazepam 5 mg PO DAILY:PRN anxiety 
8. Metoprolol Succinate XL 200 mg PO DAILY 
9. Ursodiol 300 mg PO BID 
RX *ursodiol 300 mg 1 capsule(s) by mouth twice a day Disp #*60 
Capsule Refills:*2

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Fever

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Please call Dr ___ office at ___ if you 
develop fever (temperature of 101 or greater), shaking chills, 
nausea, vomiting, jaundice, diarrhea, constipation, inability to 
tolerate food or medications, abdomen distension, you have 
swelling in your ankles, the incision has fluid leaking, 
bleeding or redness around the incision site or any other 
concerning symptoms.

You have been prescribed Ciprofloxacin (antibiotic) for 7 days

Keep incision covered if out in sun to prevent sunburn/scarring. 


No lifting more than 10 pounds. No straining

You may shower, allow water to run over the incision and pat the 
aresa dry. No lotion or powder near the incision.

No tub baths or swimming

Continue all home medications as you have been prescribed. 
Please follow up with your PCP for INR check on _____________

 
Followup Instructions:
___